US07256215B2
4-(2-Aminoethyl)-3-methoxymethoxyphenol(12.3 g) and 7.9 g of sodium bicarbonate were suspended in a mixture of 133 mL of tetrahydrofuran and 14.4 mL of water. To the resulting suspension were added 18 mL portions of a solution of 14.50 g of 5-cyano-2-methoxybenzensulfonyl chloride in 180 mL of tetrahydrofuran every 10 minutes while the internal temperature was kept at 10-20° C. After being stirred at room temperature for 8 hours, the reaction mixture was purified by column chromatography on aminopropylated silica gel (eluent: ethyl acetate), and recrystallized from ethyl acetate-diisopropyl ether to give 21.87 g of 5-cyano-N-[2-(4-hydroxy-2-methoxy methoxyphenyl)ethyl]-2-methoxybenzenesulfonamide as a colorless crystal.

reactant | 4-(2-Aminoethyl)-3-methoxymethoxyphenol | 12.3 g | NCCC1=C(C=C(C=C1)O)OCOC | C10H15NO3
reactant | sodium bicarbonate | 7.9 g | C([O-])(O)=O.[Na+]
reactant | 5-cyano-2-methoxybenzensulfonyl chloride | 14.50 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C8H6ClNO3S
solvent | tetrahydrofuran | 133 mL | O1CCCC1 | C4H8O
solvent | water | 14.4 mL | O | H2O
solvent | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
product | 5-cyano-N-[2-(4-hydroxy-2-methoxy methoxyphenyl)ethyl]-2-methoxybenzenesulfonamide | 21.87 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)O)OCOC)OC | C18H20N2O6S
